US04110447
A solution of 2.65 g of 1-isopropylimino-3-p-biphenylyl-butane (obtainable from 3-p-biphenylyl-butanal and isopropylamine) in 25 ml of dioxane is hydrogenated, over 0.2 g of platinum, at 20° and normal pressure until hydrogen absorption ceases. The mixture is filtered and evaporated to give 1-isopropylamino-3-p-biphenylyl-butane.

reactant | 1-isopropylimino-3-p-biphenylyl-butane | 2.65 g | C(C)(C)N=CCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H23N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | platinum | 0.2 g | [Pt] | Pt
product | 1-isopropylamino-3-p-biphenylyl-butane | C(C)(C)NCCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H25N
